data/oMe_Silver.jsonl
{"reaction_id": "NR-130_1-CC_2-C#N_3-S(=O)(=O)c2ccccc2","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(C#N)=C(S(=O)(=O)c2ccccc2)N(CC)CC"],"products_smiles": ["c1ccc2c(c1)c(C#N)c(S(=O)(=O)c2ccccc2)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(C#N)=C(S(=O)(=O)c2ccccc2)N(CC)CC","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(C#N)C(S(=O)(=O)c2ccccc2)=[N+](CC)CC","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(C#N)C(S(=O)(=O)c2ccccc2)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(C#N)c(S(=O)(=O)c2ccccc2)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-324_1-c1ccccc1C_2-CC_3-C_4-CC(=O)O_5-C(C)C","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccccc1CC(CC)=C(C)C(CC(=O)O)C(C)C","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccccc1CC(CC)=C(C)C(CC(=O)O)(C(C)C)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccccc1CC(CC)=C(C)[C](CC(=O)O)C(C)C","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccccc1CC(CC)=C(C)C(CC(=O)O)(C(C)C)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
